US07452899B2
[5-(4-fluorophenyl)-1,3-oxazole-2-yl]methyltriphenylphosphonium chloride
[5-(4-fluorophenyl)-1,3-oxazol-2-yl]methanol (0.46 g, 2.4 mmol) was dissolved in DCM (5 ml), then Et3N (0.3 ml, 2.4 mmol) and SOCl2 (0.35 ml,4.7 mmol) were added. The reaction mixture was stirred for 1 hour at room temperature under nitrogen. The mixture was diluted with DCM (20 ml) and a saturated solution of Na2CO3 (20 ml) was added carefully. The organic layer was separated, washed with brine (20 ml), dried over MgSO4 and concentrated in vacuo to give a yellow oil. This oil (0.5 g, 2.38 mmol) was treated with an equimolar amount of triphenylphosphine as described for Intermediate A (Step 3) to give the title compound. δH (360 MHz, DMSO) 5.76 (2H, d, J 16.0), 7.29 (2H, t, J 7.0), 7.39-7.46 (2H, m), 7.61 (1H, s), 7.74-7.95 (15H, m).

reactant | [5-(4-fluorophenyl)-1,3-oxazol-2-yl]methanol | 2.4 mmol, 0.46 g | FC1=CC=C(C=C1)C1=CN=C(O1)CO | C10H8FNO2
reactant | Et3N | 2.4 mmol, 0.3 ml | CCN(CC)CC | C6H15N
reactant | SOCl2 | 4.7 mmol, 0.35 ml | O=S(Cl)Cl | Cl2OS
reactant | Na2CO3 | 20 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | [5-(4-fluorophenyl)-1,3-oxazole-2-yl]methyltriphenylphosphonium chloride | [Cl-].FC1=CC=C(C=C1)C1=CN=C(O1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H22FNOP.ClH/c29-23-18-16-22(17-19-23)27-20-30-28(31-27)21-32(24-10-4-1-5-11-24,25-12-6-2-7-13-25)26-14-8-3-9-15-26;/h1-20H,21H2;1H/q+1;/p-1
